US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (155 mg, 0.50 mmol), N-methylpyrrolidone (3 mL) and benzoyl chloride (0.070 mL, 0.60 mmol), and in the same manner as in Example 162, the title compound (176 mg, yield 85%) was obtained. melting point 265° C.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 155 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | benzoyl chloride | 0.60 mmol, 0.070 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide | 176 mg, yield 85% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC=CC=C2)=O)C1 | C23H19N5O3
